US07576094B2
To a solution of 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutane]-3-carbaldehyde (315 mg), prepared as described herein, in 4 mL of MeOH was added tosylmethyl isocyanide (TosMIC) reagent (218 mg) and potassium carbonate (310 mg). The reaction mixture was allowed to heat at 80° C. for 20 min. The mixture was quenched with water and extracted with ethyl acetate. After concentrated in vacuo, the residue was purified by flash chromatography eluted with 30% ethyl acetate in hexane to give 118.8 mg of 5,7-dimethyl-3-(1,3-oxazol-5-yl)spiro[chromene-2,1′-cyclobutan]-6-ol as a yellow solid.

reactant | 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutane]-3-carbaldehyde | 315 mg | OC=1C(=C2C=C(C3(CCC3)OC2=CC1C)C=O)C | C15H16O3
reactant | tosylmethyl isocyanide | 218 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 310 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 4 mL | CO | CH4O
product | 5,7-dimethyl-3-(1,3-oxazol-5-yl)spiro[chromene-2,1′-cyclobutan]-6-ol | 118.8 mg | CC1=C2C=C(C3(CCC3)OC2=CC(=C1O)C)C1=CN=CO1 | C17H17NO3
